US08106077B2
2-Ethynyl-benzoic acid methyl ester
To a solution of 2-trimethylsilanylethynyl-benzoic acid methyl ester (540 mg, 2.32 mmol) in acetonitrile/water (20 mL/5 mL) is added cesium fluoride (1.41 g, 9.30 mmol). The reaction is stirred at room temperature. After 4 h, the reaction is concentrated and the residue is partitioned between EtOAc (100 mL) and 0.2N HCl (30 mL). The aqueous layer is extracted with EtOAc (100 mL) and the combined organic layers are washed with brine, dried (MgSO4), filtered, and concentrated. The residue is chromatographed eluting with 0 to 5% EtOAc/Hexanes to yield the title compound (358 mg, 96%). GC/MS: 160.

reactant | 2-trimethylsilanylethynyl-benzoic acid methyl ester | 2.32 mmol, 540 mg | COC(C1=C(C=CC=C1)C#C[Si](C)(C)C)=O | C13H16O2Si
reactant | cesium fluoride | 9.30 mmol, 1.41 g | [F-].[Cs+]
solvent | acetonitrile water | 20 mL | C(C)#N.O
product | 2-Ethynyl-benzoic acid methyl ester | 358 mg, 96% | COC(C1=C(C=CC=C1)C#C)=O | C10H8O2
